US04965270
(e) (S)-2-Amino-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)purine
A solution of (S)-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)-2-formamidopurine (400 mg, 1.22 mmol) in methanol (10 ml) and 0.88 ammonia (10 ml) was stirred at 25° C. for 4 h. The solution was evaporated under reduced pressure and the residue chromatographed on silica, eluting with ethyl (2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)purine (270 mg, 74%) as a white Solid; m.p. 118°-120° C. υmax (KBr) 3450, 3320, 3210, 1650, 1630, 1620, 1560, 1510 and 1470 cm-1 ; δH(CDCl3) 1.36(3H,S,CH3), 1.42(3H,S,CH3), 3.85(1H,m,CH2OCMe2), 4.14(1H,m,CH2OCMe2), 4.43(3H,m,CH+CH2ON), 5.51 (2H,br.s,D2O exchangeable, NH2), 8.00(1H,S,H-8). Found: C, 44.45; H, 4.69; N, 23.31%; M+ 299.0795; C11H14ClN5O3 requires C, 44.08; H, 4.71; N, 23.37%; M+ 299.0785.

reactant | (S)-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)-2-formamidopurine | 1.22 mmol, 400 mg | ClC1=C2N=CN(C2=NC(=N1)NC=O)OC[C@H]1OC(OC1)(C)C | C12H14ClN5O4
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | (S)-2-Amino-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)purine | NC1=NC(=C2N=CN(C2=N1)OC[C@H]1OC(OC1)(C)C)Cl | C11H14ClN5O3
